US07652049B2
The 1-[3,5-bis(trifluoromethyl)phenyl]-2-((tert-butoxycarbonyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl methanesulfonate from the previous reaction was dissolved in DMPU (15 mL) and treated with NaN3 (140 mg, 2.15 mmol). The reaction was stirred at room temperature for 15 hours and then diluted with EtOAc (75 ml). The solution was washed with H2O (5×40 mL) and brine (40 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was purified with 20% EtOAc/hexanes to afford tert-butyl{2-azido-2-[3,5-bis(trifluoromethyl)phenyl]ethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate. Rf=0.52 (15% EtOAc/hexanes). LCMS=605.3 (M+1-BOC)+. 1H NMR (C6D6, 500 MHz, 70° C.) δ 7.80 (s, 1H), 7.67 (s, 1H), 7.48 (s, 2H), 7.36 (d, J=7.8 Hz, 1H), 7.01-7.11 (m, 2H), 6.89 (m, 1H), 6.64 (d, J=8.6 Hz, 1H), 4.22-4.69 (m, 3H), 3.28 (s, 3H), 2.61-3.16 (m, 3H), 1.34 (s, 9H), 1.13-1.18 (m, 6H).

reactant | 1-[3,5-bis(trifluoromethyl)phenyl]-2-((tert-butoxycarbonyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl methanesulfonate | CS(=O)(=O)OC(CN(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C34H36F9NO6S
reactant | NaN3 | 2.15 mmol, 140 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMPU | 15 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | EtOAc | 75 ml | CCOC(=O)C | C4H8O2
product | tert-butyl{2-azido-2-[3,5-bis(trifluoromethyl)phenyl]ethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N=[N+]=[N-])=O | C33H33F9N4O3
